US08193199B2
Dissolved 1-(azet-1(2H)-yl)ethanone (22 mg, 227 μmol, 1 eq), (E)-N-benzylidene-2-fluorobenzenamine (45 mg, 227 μmol, 1 eq), 2-fluorobenzenamine (22 μl, 227 μmol, 1 eq), and yttrium trifluoromethanesulfonate (6 mg, 11 μmol, 0.05 eq) in 9 mL of acetonitrile. The reaction was stirred at rt overnight. The reaction was heated to 90° C. for 5 h. The reaction was cooled to rt and the solvent was removed under vacuum. The residue was dissolved in 20 mL of DCM and washed with 1×5 mL of NaHCO3. The organic layer was dried over MgSO4, filtered and concentrated. Purification by column chromatography (7:3 hexanes:ethyl acetate) afforded N-((8-fluoro-2-phenylquinolin-3-yl)methyl)acetamide. 1H NMR (400 MHz, CDCl3) δ ppm 8.20 (s, 1H), 7.60 (d, J=7.83, 1H), 7.50 (m, 2H), 7.45 (m, 4H), 7.37 (ddd, J=10.6, 7.8, 1.6 Hz, 1H), 5.92 (br t, J=5.9 Hz, 1H), 4.55 (d, J=6.3 Hz, 2H), 1.96 (s, 3H). Mass Spectrum (ESI) m/e=295.0 (M+1).

reactant | 1-(azet-1(2H)-yl)ethanone | 227 μmol, 22 mg, 1 eq | N1(CC=C1)C(C)=O | C5H7NO
reactant | (E)-N-benzylidene-2-fluorobenzenamine | 227 μmol, 45 mg, 1 eq | C(/C1=CC=CC=C1)=N\C1=C(C=CC=C1)F | C13H10FN
reactant | 2-fluorobenzenamine | 227 μmol, 22 μl, 1 eq | FC1=C(C=CC=C1)N | C6H6FN
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
catalyst | yttrium trifluoromethanesulfonate | 11 μmol, 6 mg, 0.05 eq | FC(S(=O)(=O)[O-])(F)F.[Y+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
product | N-((8-fluoro-2-phenylquinolin-3-yl)methyl)acetamide | FC=1C=CC=C2C=C(C(=NC12)C1=CC=CC=C1)CNC(C)=O | C18H15FN2O
